US08865726B2
To the solid (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one (0.30 g, 0.525 mmol) was added TFA (10 mL) and the reaction stirred for 2 hours at ambient temperature. The reaction was concentrated in vacuo and the material was slurried in water (5 mL) with acetonitrile/methanol (10 mL, 1:1) and stirred for 3 hours. The slurry was filtered and the solids were dried in vacuo. The solids were then taken up in water and the water layer was basified with a solution of saturated NaHCO3, and the solids were filtered. The solids were again slurried in water, then filtered and concentrated. The residue was slurried in water/acetonitrile/methanol (30 mL total) and nitrogen was bubbled through the solution to drive complete deprotection. The slurry was filtered and the isolated solids were taken up in acetonitrile (3 mL) and heated to reflux, then cooled. The mixture was filtered and concentrated in vacuo to yield (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one (0.0589 g, 0.133 mmol, 25.4% yield) as the free base. LCMS (APCI+) m/z 442 [M+H]+.

reactant | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | 0.525 mmol, 0.30 g | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C29H30FN7O3Si
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-phenyloxazolidin-2-one | 0.133 mmol, 0.0589 g, 25.4% yield | FC=1C=C(C=CC1C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=CC=CC=C2)=O | C23H16FN7O2
